US07858796B2
(67) 3-[1-({3-[bis(1-methylethyl)amino]propyl}sulfonyl)-4-piperidinyl]-5-phenyl-1H-indole-7-carboxamide
Following the general procedure for aminosulfonamide formation outlined in example 2, 3-{1-[(3-chloropropyl)sulfonyl]-4-piperidinyl}-5-phenyl-1H-indole-7-carboxamide (100 mg, 0.313 mmol) and N-(1-methylethyl)-2-propanamine (0.22 mL, 1.55 mmol) were allowed to react in the presence of K2CO3 (172.5 mg, 1.28 mmol). The resulting residue was purified by reverse phase HPLC eluting with 10% B to 80% B, where A=H2O (0.1% trifluoroacetic acid) and B=CH3CN (0.1% triflucaroacetic acid) to give the title compound (20.5 mg, 13%).

reactant | aminosulfonamide | NS(=O)(=O)N | H4N2O2S
reactant | 3-{1-[(3-chloropropyl)sulfonyl]-4-piperidinyl}-5-phenyl-1H-indole-7-carboxamide | 0.313 mmol, 100 mg | ClCCCS(=O)(=O)N1CCC(CC1)C1=CNC2=C(C=C(C=C12)C1=CC=CC=C1)C(=O)N | C23H26ClN3O3S
reactant | N-(1-methylethyl)-2-propanamine | 1.55 mmol, 0.22 mL | CC(C)NC(C)C | C6H15N
reactant | K2CO3 | 1.28 mmol, 172.5 mg | C(=O)([O-])[O-].[K+].[K+]
product | 3-[1-({3-[bis(1-methylethyl)amino]propyl}sulfonyl)-4-piperidinyl]-5-phenyl-1H-indole-7-carboxamide | 20.5 mg, 13% | CC(C)N(CCCS(=O)(=O)N1CCC(CC1)C1=CNC2=C(C=C(C=C12)C1=CC=CC=C1)C(=O)N)C(C)C | C29H40N4O3S
